US07943788B2
1-(Benzo[b]thiophen-2-ylmethyl)-5-bromo-2-fluorobenzene
Thianaphthene and 5-bromo-2-fluorobenzaldehyde were treated in a manner similar to Reference Example 7 to give the target compound.

reactant | Thianaphthene | C=1C=CC2=C(C1)C=CS2 | C8H6S
reactant | 5-bromo-2-fluorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
product | 1-(Benzo[b]thiophen-2-ylmethyl)-5-bromo-2-fluorobenzene | S1C2=C(C=C1CC1=C(C=CC(=C1)Br)F)C=CC=C2 | C15H10BrFS
